US07829590B2
Method F: 5-(5-Amino-2H-pyrazol-3-yl)-3-[1-(2-chloro-phenyl)-ethoxy]-thiophene-2-carboxylic acid methyl ester
Hydrazine hydrate (17.4 mg, 0.35 mmol, 1.1 Eq.) was added to a stirred solution of 3-[1-(2-Chlorophenyl)-ethoxy]-5-cyanoacetyl-thiophene-2-carboxylic acid methyl ester (115 mg, 0.32 mmol, 1.0 Eq.) in EtOH (4 mL) and the reaction heated at 80° C. overnight. The reaction mixture was concentrated in vacuo and purified by column chromatography (70/9/1 DCM/MeOH/Aq. NH3) to give the sub-title compound as a white solid (35 mg, 0.09 mmol, 29%);

reactant | Hydrazine hydrate | 0.35 mmol, 17.4 mg, 1.1 Eq. | O.NN
reactant | 3-[1-(2-Chlorophenyl)-ethoxy]-5-cyanoacetyl-thiophene-2-carboxylic acid methyl ester | 0.32 mmol, 115 mg, 1.0 Eq. | COC(=O)C=1SC(=CC1OC(C)C1=C(C=CC=C1)Cl)C(CC#N)=O | C17H14ClNO4S
solvent | EtOH | 4 mL | CCO | C2H6O
product | 5-(5-Amino-2H-pyrazol-3-yl)-3-[1-(2-chloro-phenyl)-ethoxy]-thiophene-2-carboxylic acid methyl ester | 0.09 mmol, 35 mg, 29% | COC(=O)C=1SC(=CC1OC(C)C1=C(C=CC=C1)Cl)C=1NN=C(C1)N | C17H16ClN3O3S
